US04463007
2-chloro-4-hydrazinoquinazoline
87 g (1.74 moles) of hydrazine hydrate were added dropwise to a suspension of 86.5 g (0.43 mole) of 2,4-dichloroquinazoline in 1500 ml of methylene chloride at room temperature, while cooling with ice and stirring vigorously. After 8 hours at room temperature, the precipitate was filtered off under suction, washed with water and dried. Yield: 78.4 g (92%) of 2-chloro-4-hydrazinoquinazoline, mp.>280° C.

reactant | hydrazine hydrate | 1.74 moles, 87 g | O.NN
reactant | 2,4-dichloroquinazoline | 0.43 mole, 86.5 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
solvent | methylene chloride | 1500 ml | C(Cl)Cl | CH2Cl2
product | 2-chloro-4-hydrazinoquinazoline | ClC1=NC2=CC=CC=C2C(=N1)NN | C8H7ClN4
